US08609227B2
Particle Master 3 (MS-2)
A mixture of 90 parts by mass of PET obtained above and 10 parts by mass of silicon dioxide (“Silysia 445,” average particle size 2.5 μm, manufactured by Fuji Silysia Chemical Ltd.) was kneaded at 260° C. using a vented counter-rotation twin-axis extruder (L/D=35) with 30 mmφ, to prepare a PPT master (MS-4) containing 10% by mass of silicon dioxide.

reactant | MS-4 | CCCCN(CCCC)C(=S)NC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C19H30N2O4S
reactant | silicon dioxide | [Si](=O)=O | O2Si
product | MS-2 | CCCN(CCC)C(=S)NC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C17H26N2O4S
